US07358376B2
To a solution of furan (7.93 g) in tetrahydrofuran (100 ml) cooled to 5° C. was added dropwise n-butyl lithium (80.2 ml, 1.6M in hexanes). The mixture was stirred for 2 h. A solution of propylene oxide (12.2 ml) was added dropwise and the resulting mixture was stirred at 0° C. for 1 h. The reaction mixture was quenched with saturated ammonium chloride and extracted with diethyl ether. The organics were dried (MgSO4) and concentrated. The crude oil was distilled to give 1-(2-furyl)-propan-2-ol (3.85 g, b.p. 68-70° C. at 6.0 mm).

reactant | furan | 7.93 g | O1C=CC=C1 | C4H4O
reactant | n-butyl lithium | 1.6M, 80.2 ml | C(CCC)[Li]
reactant | propylene oxide | 12.2 ml | C1C(C)O1 | C3H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-furyl)-propan-2-ol | 3.85 g | O1C(=CC=C1)CC(C)O | C7H10O2
